US07691860B2
Metachloroperbenzoic acid (1.25 g) was added, under cooling with ice, to a methylene chloride solution (10 mL) containing ethyl 4-tert-butylsulfinylaminocyclohexane-carboxylate (1.0 g) as prepared by the above-described preparation method, and stirring was effected at room temperature for 3 hrs. The reaction mixture, after being diluted with ethyl acetate, was washed with an aqueous saturated sodium-hydrogencarbonate and sodium-chloride solutions successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resultant residue was separated and purified by silica-gel chromatography (C-300, hexane:ethyl acetate=1:1) to give ethyl 4-tert-butylsulfonylamino-cyclohexanecarboxylate composed mainly of the trans isomer (673 mg).

reactant | Metachloroperbenzoic acid | 1.25 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | ethyl 4-tert-butylsulfinylaminocyclohexane-carboxylate | 1.0 g | C(C)(C)(C)S(=O)NC1CCC(CC1)C(=O)OCC | C13H25NO3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-tert-butylsulfonylamino-cyclohexanecarboxylate | C(C)(C)(C)S(=O)(=O)NC1CCC(CC1)C(=O)OCC | C13H25NO4S
